US05095038
A mixture of methyl 4-[7-[4-(dimethylcarbamoyl)but-1-enyl]naphth-1-ylmethyl]-3-methoxybenzoate (1.1 g), 10% w/w palladium-on-carbon/50% water (110 mg) and ethyl acetate (10 ml) was hydrogenated under atmospheric pressure for 4 hours. Filtration through diatomaceous earth with ethyl acetate wash and evaporation afforded methyl 4-[7-(4-dimethylcarbamoylbutyl)naphth-1-ylmethyl]-3-methoxybenzoate (1.15 g, quantitative) as a light yellow syrup; MS(CI), m/e=434(M+H).

reactant | methyl 4-[7-[4-(dimethylcarbamoyl)but-1-enyl]naphth-1-ylmethyl]-3-methoxybenzoate | 1.1 g | CN(C(=O)CCC=CC1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)C | C27H29NO4
catalyst | palladium-on-carbon | 110 mg | [Pd] | Pd
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-[7-(4-dimethylcarbamoylbutyl)naphth-1-ylmethyl]-3-methoxybenzoate | 1.15 g | CN(C(=O)CCCCC1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)C | C27H31NO4
